US09284331B2
Step 1: 9-(2H-1,2,3-triazol-2-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
136-1. A mixture of 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (600 mg, 1.69 mmol), 1H-1,2,3-triazole (421 mg, 6.10 mmol), trans-N,N-dimethylcyclohexane-1,2-diamine (87 mg, 0.61 mmol), cesium carbonate (1987 mg, 6.10 mmol) and CuI (323 mg, 1.69 mmol) in DMF (6 mL) were heated under Ar at 130° C. in the microwave for 5 hr. The mixture was cooled to rt. Water was added and the mixture was extracted with CH2Cl2 (2×). The combined organic layers were dried with sodium sulfate and evaporated under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera Four, eluent: DCM for 4 min, then from 0% MeOH in DCM to 5% MeOH in DCM in 26 min, followed by 5% MeOH in DCM for 5 min) to yield the title compound as yellow oil (97 mg). UPLC-MS: MS 296.2 (M+H+); UPLC rt 0.63 min.

reactant | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 1.69 mmol, 600 mg | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
reactant | 1H-1,2,3-triazole | 6.10 mmol, 421 mg | N1N=NC=C1 | C2H3N3
reactant | trans-N,N-dimethylcyclohexane-1,2-diamine | 0.61 mmol, 87 mg | CN([C@H]1[C@@H](CCCC1)N)C | C8H18N2
reactant | cesium carbonate | 6.10 mmol, 1987 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1.69 mmol, 323 mg | [Cu]I
solvent | Water | O | H2O
product | 9-(2H-1,2,3-triazol-2-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 97 mg | N=1N(N=CC1)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C15H13N5O2
